US06777426B2
2-(6-Bromo-5-indanylamino)-2-imidazoline hydrobromide
To a solution of 2-(5-Indanylamino)-2-imidazoline (100 mg, 0.497 mmol) in acetic acid (7 mL) was added a solution of bromine (153 mg, 0.957 mmol) in acetic acid (1 mL). The resulting mixture was stirred for 5 min, and the solvent was removed. The residue was flash chromatographed over silica gel (EtOAc:MeOH:Et3N=6:2:1) to afford a solid, which was recrystallized from dichloromethane/hexane to give a beige solid (25 mg, 14% yield): mp 220-221° C.; HRMS (EI) calcd. for C12H14N3Br 279.0371, obsd. 279.0383. Anal. Calcd. for C12H14N3BrH·Br2/3H2O: C, 38.63; H, 4.41; N, 11.26; Br, 42.83. Found: C, 39.10; H, 4.21; N, 10.87; Br, 42.37.

reactant | 2-(5-Indanylamino)-2-imidazoline | 0.497 mmol, 100 mg | C1CCC2=CC(=CC=C12)NC=1NCCN1 | C12H15N3
reactant | bromine | 0.957 mmol, 153 mg | BrBr | Br2
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-(6-Bromo-5-indanylamino)-2-imidazoline hydrobromide | 25 mg, 14% yield | Br.BrC1=C(C=C2CCCC2=C1)NC=1NCCN1 | InChI=1S/C12H14BrN3.BrH/c13-10-6-8-2-1-3-9(8)7-11(10)16-12-14-4-5-15-12;/h6-7H,1-5H2,(H2,14,15,16);1H
